US05144045
Ethyl 2-oxo-octadecanoate
A slurry of 40 ml of hexadecyl bromide in 250 ml of tetrahydrofuran containing 3.64 g of magnesium chips is put in a sonic bath. This solution is added dropwise to a stirred solution of 35.3 ml of diethyloxalate in 70 ml of tetrahydrofuran at -15° C. over 1 hour. The reaction mixture is poured into 3N hydrochloric acid and extracted with methylene chloride. The extract is dried and evaporated. The concentrate is purified by chromatography on silica gel using 5% ethyl acetate:petroleum ether. Fractions containing product are combined and evaporated. The residue is crystallized from petroleum ether to give 21.9 g of the desired product as a solid.

reactant | hexadecyl bromide | 40 ml | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | magnesium | [Mg] | Mg
reactant | diethyloxalate | 35.3 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 250 ml, 3.64 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | Ethyl 2-oxo-octadecanoate | 21.9 g | O=C(C(=O)OCC)CCCCCCCCCCCCCCCC | C20H38O3
